### PR TITLE
[Merged by Bors] - feat(WithTerminal): show equivalence of cones with `Over` category

### PR DESCRIPTION
**Pull request by Moises-Herradon-Cueto**
Show how limits in an over category relate to limits in the original category. This is useful to show that if a functor `F` preserves limits, then `Over.post F` between corresponding over categories preserves limits as well.

From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by YaelDillies** [comment]
Suggested edit:
```diff
diff --git a/Mathlib/CategoryTheory/WithTerminal/Cones.lean b/Mathlib/CategoryTheory/WithTerminal/Cones.lean
index 566fd448fb..2481657398 100644
--- a/Mathlib/CategoryTheory/WithTerminal/Cones.lean
+++ b/Mathlib/CategoryTheory/WithTerminal/Cones.lean
@@ -67,65 +67,39 @@ def coneLift {X : C} {K : J ⥤ Over X} : Cone K ⥤ Cone (liftFromOver.obj K) w
   obj t := {
     pt := t.pt.left
     π.app
-    | of a => CommaMorphism.left (t.π.app a)
+    | of a => (t.π.app a).left
     | star => t.pt.hom
     π.naturality
-    | star , star , _
+    | star, star, _
     | of a, star, _ => by aesop
     | star, of _, _ => by contradiction
-    | of a, of b , f => by
-      have := by
-        calc
-          (t.π.app b).left = (t.π.app a ≫ K.map f).left := by
-            simp only [Functor.const_obj_obj, Cone.w]
-          _ = (t.π.app a).left ≫ (K.map f).left := rfl
-      simpa
+    | of a, of b, f => by simp [← Comma.comp_left]
   }
   map {t₁ t₂} f := {
     hom := f.hom.left
     w
     | star => by aesop_cat
-    | of a => by
-      have := by calc
-        f.hom.left ≫ (t₂.π.app a).left = (f.hom ≫ t₂.π.app a).left := by rfl_cat
-        _ = (t₁.π.app a).left := by simp_all only [ConeMorphism.w, Functor.const_obj_obj]
-      simpa
+    | of a => by simp [← Comma.comp_left]
   }
 
 /-- This is the inverse of the previous construction: a cone of an extended functor
 `liftFromOver.obj K : WithTerminal J ⥤ C` consists of an object of `C`, together
 with morphisms. This same object is a cone of the original functor `K : J ⥤ Over X`. -/
-@[simps map obj_π]
+@[simps map obj_π obj_pt]
 def coneBack {X : C} {K : J ⥤ Over X} : Cone (liftFromOver.obj K) ⥤ Cone K where
   obj t := {
-    pt := Over.mk (t.π.app star)
+    pt := .mk (t.π.app star)
     π.app a := {
       left := t.π.app (of a)
       right := 𝟙 _
-      w := by
-        have := by
-          calc
-            t.π.app (of a) ≫ (K.obj a).hom = t.π.app (of a) ≫
-              (liftFromOver.obj K).map (homFrom a) := rfl
-            _ = t.π.app star := by simp only [Functor.const_obj_obj, Cone.w]
-        simpa
+      w := by simpa using t.w (homFrom a)
     }
-    π.naturality a b f := by
-      ext
-      let f₂ := incl.map f
-      have eq_after_K: (K.map f₂).left = (K.map f).left := by aesop
-      have nat : t.π.app (of b) =
-        t.π.app (of a) ≫ (K.map f₂).left := by simpa using t.π.naturality f₂
-      simp [nat, eq_after_K]
+    π.naturality a b f := by ext; simpa using t.π.naturality (incl.map f)
   }
   map {t₁ t₂ f} := {
     hom := Over.homMk f.hom
   }
 
-@[simp]
-theorem coneBack_obj_pt {X : C} {K : J ⥤ Over X} (t : Cone (liftFromOver.obj K)) :
-    (coneBack.obj t).pt  = Over.mk (t.π.app star) := rfl
-
 /-- The isomorphism between `coneLift ⋙ coneBack` and the identity, at the level of objects. -/
 @[simps]
 def coneLiftBack {X : C} {K : J ⥤ Over X} (t : Cone K) : coneBack.obj (coneLift.obj t) ≅ t where
@@ -135,7 +109,7 @@ def coneLiftBack {X : C} {K : J ⥤ Over X} (t : Cone K) : coneBack.obj (coneLif
 /-- The isomorphism between `coneBack ⋙ coneLift` and the identity, at the level of objects. -/
 @[simps]
 def coneBackLift {X : C} {K : J ⥤ Over X} (t : Cone (liftFromOver.obj K)) :
-coneLift.obj (coneBack.obj t) ≅ t where
+    coneLift.obj (coneBack.obj t) ≅ t where
   hom.hom := 𝟙 t.pt
   inv.hom := 𝟙 t.pt
 

```

**Comment by YaelDillies** [comment]
Suggested edit:
```diff
diff --git a/Mathlib/CategoryTheory/WithTerminal/Cones.lean b/Mathlib/CategoryTheory/WithTerminal/Cones.lean
index 566fd448fb..2481657398 100644
--- a/Mathlib/CategoryTheory/WithTerminal/Cones.lean
+++ b/Mathlib/CategoryTheory/WithTerminal/Cones.lean
@@ -67,65 +67,39 @@ def coneLift {X : C} {K : J ⥤ Over X} : Cone K ⥤ Cone (liftFromOver.obj K) w
   obj t := {
     pt := t.pt.left
     π.app
-    | of a => CommaMorphism.left (t.π.app a)
+    | of a => (t.π.app a).left
     | star => t.pt.hom
     π.naturality
-    | star , star , _
+    | star, star, _
     | of a, star, _ => by aesop
     | star, of _, _ => by contradiction
-    | of a, of b , f => by
-      have := by
-        calc
-          (t.π.app b).left = (t.π.app a ≫ K.map f).left := by
-            simp only [Functor.const_obj_obj, Cone.w]
-          _ = (t.π.app a).left ≫ (K.map f).left := rfl
-      simpa
+    | of a, of b, f => by simp [← Comma.comp_left]
   }
   map {t₁ t₂} f := {
     hom := f.hom.left
     w
     | star => by aesop_cat
-    | of a => by
-      have := by calc
-        f.hom.left ≫ (t₂.π.app a).left = (f.hom ≫ t₂.π.app a).left := by rfl_cat
-        _ = (t₁.π.app a).left := by simp_all only [ConeMorphism.w, Functor.const_obj_obj]
-      simpa
+    | of a => by simp [← Comma.comp_left]
   }
 
 /-- This is the inverse of the previous construction: a cone of an extended functor
 `liftFromOver.obj K : WithTerminal J ⥤ C` consists of an object of `C`, together
 with morphisms. This same object is a cone of the original functor `K : J ⥤ Over X`. -/
-@[simps map obj_π]
+@[simps map obj_π obj_pt]
 def coneBack {X : C} {K : J ⥤ Over X} : Cone (liftFromOver.obj K) ⥤ Cone K where
   obj t := {
-    pt := Over.mk (t.π.app star)
+    pt := .mk (t.π.app star)
     π.app a := {
       left := t.π.app (of a)
       right := 𝟙 _
-      w := by
-        have := by
-          calc
-            t.π.app (of a) ≫ (K.obj a).hom = t.π.app (of a) ≫
-              (liftFromOver.obj K).map (homFrom a) := rfl
-            _ = t.π.app star := by simp only [Functor.const_obj_obj, Cone.w]
-        simpa
+      w := by simpa using t.w (homFrom a)
     }
-    π.naturality a b f := by
-      ext
-      let f₂ := incl.map f
-      have eq_after_K: (K.map f₂).left = (K.map f).left := by aesop
-      have nat : t.π.app (of b) =
-        t.π.app (of a) ≫ (K.map f₂).left := by simpa using t.π.naturality f₂
-      simp [nat, eq_after_K]
+    π.naturality a b f := by ext; simpa using t.π.naturality (incl.map f)
   }
   map {t₁ t₂ f} := {
     hom := Over.homMk f.hom
   }
 
-@[simp]
-theorem coneBack_obj_pt {X : C} {K : J ⥤ Over X} (t : Cone (liftFromOver.obj K)) :
-    (coneBack.obj t).pt  = Over.mk (t.π.app star) := rfl
-
 /-- The isomorphism between `coneLift ⋙ coneBack` and the identity, at the level of objects. -/
 @[simps]
 def coneLiftBack {X : C} {K : J ⥤ Over X} (t : Cone K) : coneBack.obj (coneLift.obj t) ≅ t where
@@ -135,7 +109,7 @@ def coneLiftBack {X : C} {K : J ⥤ Over X} (t : Cone K) : coneBack.obj (coneLif
 /-- The isomorphism between `coneBack ⋙ coneLift` and the identity, at the level of objects. -/
 @[simps]
 def coneBackLift {X : C} {K : J ⥤ Over X} (t : Cone (liftFromOver.obj K)) :
-coneLift.obj (coneBack.obj t) ≅ t where
+    coneLift.obj (coneBack.obj t) ≅ t where
   hom.hom := 𝟙 t.pt
   inv.hom := 𝟙 t.pt
 

```

**Comment by YaelDillies** [comment]
Suggested edit:
```diff
diff --git a/Mathlib/CategoryTheory/WithTerminal/Cones.lean b/Mathlib/CategoryTheory/WithTerminal/Cones.lean
index 566fd448fb..2481657398 100644
--- a/Mathlib/CategoryTheory/WithTerminal/Cones.lean
+++ b/Mathlib/CategoryTheory/WithTerminal/Cones.lean
@@ -67,65 +67,39 @@ def coneLift {X : C} {K : J ⥤ Over X} : Cone K ⥤ Cone (liftFromOver.obj K) w
   obj t := {
     pt := t.pt.left
     π.app
-    | of a => CommaMorphism.left (t.π.app a)
+    | of a => (t.π.app a).left
     | star => t.pt.hom
     π.naturality
-    | star , star , _
+    | star, star, _
     | of a, star, _ => by aesop
     | star, of _, _ => by contradiction
-    | of a, of b , f => by
-      have := by
-        calc
-          (t.π.app b).left = (t.π.app a ≫ K.map f).left := by
-            simp only [Functor.const_obj_obj, Cone.w]
-          _ = (t.π.app a).left ≫ (K.map f).left := rfl
-      simpa
+    | of a, of b, f => by simp [← Comma.comp_left]
   }
   map {t₁ t₂} f := {
     hom := f.hom.left
     w
     | star => by aesop_cat
-    | of a => by
-      have := by calc
-        f.hom.left ≫ (t₂.π.app a).left = (f.hom ≫ t₂.π.app a).left := by rfl_cat
-        _ = (t₁.π.app a).left := by simp_all only [ConeMorphism.w, Functor.const_obj_obj]
-      simpa
+    | of a => by simp [← Comma.comp_left]
   }
 
 /-- This is the inverse of the previous construction: a cone of an extended functor
 `liftFromOver.obj K : WithTerminal J ⥤ C` consists of an object of `C`, together
 with morphisms. This same object is a cone of the original functor `K : J ⥤ Over X`. -/
-@[simps map obj_π]
+@[simps map obj_π obj_pt]
 def coneBack {X : C} {K : J ⥤ Over X} : Cone (liftFromOver.obj K) ⥤ Cone K where
   obj t := {
-    pt := Over.mk (t.π.app star)
+    pt := .mk (t.π.app star)
     π.app a := {
       left := t.π.app (of a)
       right := 𝟙 _
-      w := by
-        have := by
-          calc
-            t.π.app (of a) ≫ (K.obj a).hom = t.π.app (of a) ≫
-              (liftFromOver.obj K).map (homFrom a) := rfl
-            _ = t.π.app star := by simp only [Functor.const_obj_obj, Cone.w]
-        simpa
+      w := by simpa using t.w (homFrom a)
     }
-    π.naturality a b f := by
-      ext
-      let f₂ := incl.map f
-      have eq_after_K: (K.map f₂).left = (K.map f).left := by aesop
-      have nat : t.π.app (of b) =
-        t.π.app (of a) ≫ (K.map f₂).left := by simpa using t.π.naturality f₂
-      simp [nat, eq_after_K]
+    π.naturality a b f := by ext; simpa using t.π.naturality (incl.map f)
   }
   map {t₁ t₂ f} := {
     hom := Over.homMk f.hom
   }
 
-@[simp]
-theorem coneBack_obj_pt {X : C} {K : J ⥤ Over X} (t : Cone (liftFromOver.obj K)) :
-    (coneBack.obj t).pt  = Over.mk (t.π.app star) := rfl
-
 /-- The isomorphism between `coneLift ⋙ coneBack` and the identity, at the level of objects. -/
 @[simps]
 def coneLiftBack {X : C} {K : J ⥤ Over X} (t : Cone K) : coneBack.obj (coneLift.obj t) ≅ t where
@@ -135,7 +109,7 @@ def coneLiftBack {X : C} {K : J ⥤ Over X} (t : Cone K) : coneBack.obj (coneLif
 /-- The isomorphism between `coneBack ⋙ coneLift` and the identity, at the level of objects. -/
 @[simps]
 def coneBackLift {X : C} {K : J ⥤ Over X} (t : Cone (liftFromOver.obj K)) :
-coneLift.obj (coneBack.obj t) ≅ t where
+    coneLift.obj (coneBack.obj t) ≅ t where
   hom.hom := 𝟙 t.pt
   inv.hom := 𝟙 t.pt
 

```

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 1]
```diff
@@ -0,0 +1,154 @@
...
+
+/-- A cone of a functor `K : J ⥤ Over X` consists of an object of `Over X`, together
+with morphisms. This same object is a cone of the extended functor
+`liftFromOver.obj K : WithTerminal J ⥤ C`. -/
+@[simps]
+def coneLift {X : C} {K : J ⥤ Over X} : Cone K ⥤ Cone (liftFromOver.obj K) where
+  obj t := {
+    pt := t.pt.left
+    π.app
+    | of a => CommaMorphism.left (t.π.app a)
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:70]:
```suggestion
    | of a => (t.π.app a).left
```

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 2]
```diff
@@ -0,0 +1,154 @@
...
+    | star => t.pt.hom
+    π.naturality
+    | star , star , _
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:73]:
```suggestion
    | star, star, _
```

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 3]
```diff
@@ -0,0 +1,154 @@
...
+      have := by calc
+        f.hom.left ≫ (t₂.π.app a).left = (f.hom ≫ t₂.π.app a).left := by rfl_cat
+        _ = (t₁.π.app a).left := by simp_all only [ConeMorphism.w, Functor.const_obj_obj]
+      simpa
+  }
+
+/-- This is the inverse of the previous construction: a cone of an extended functor
+`liftFromOver.obj K : WithTerminal J ⥤ C` consists of an object of `C`, together
+with morphisms. This same object is a cone of the original functor `K : J ⥤ Over X`. -/
+@[simps map obj_π]
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:98]:
```suggestion
@[simps map obj_π obj_pt]
```

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 4]
```diff
@@ -0,0 +1,154 @@
...
+def coneBack {X : C} {K : J ⥤ Over X} : Cone (liftFromOver.obj K) ⥤ Cone K where
+  obj t := {
+    pt := Over.mk (t.π.app star)
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:101]:
```suggestion
    pt := .mk (t.π.app star)
```

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 5]
```diff
@@ -0,0 +1,154 @@
...
+/-- The isomorphism between `coneLift ⋙ coneBack` and the identity, at the level of objects. -/
+@[simps]
+def coneLiftBack {X : C} {K : J ⥤ Over X} (t : Cone K) : coneBack.obj (coneLift.obj t) ≅ t where
+  hom.hom := 𝟙 t.pt
+  inv.hom := 𝟙 t.pt
+
+/-- The isomorphism between `coneBack ⋙ coneLift` and the identity, at the level of objects. -/
+@[simps]
+def coneBackLift {X : C} {K : J ⥤ Over X} (t : Cone (liftFromOver.obj K)) :
+coneLift.obj (coneBack.obj t) ≅ t where
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:138]:
```suggestion
    coneLift.obj (coneBack.obj t) ≅ t where
```

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 6]
```diff
@@ -0,0 +1,154 @@
...
+    | star , star , _
+    | of a, star, _ => by aesop
+    | star, of _, _ => by contradiction
+    | of a, of b , f => by
+      have := by
+        calc
+          (t.π.app b).left = (t.π.app a ≫ K.map f).left := by
+            simp only [Functor.const_obj_obj, Cone.w]
+          _ = (t.π.app a).left ≫ (K.map f).left := rfl
+      simpa
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:82]:
```suggestion
    | of a, of b, f => by simp [← Comma.comp_left]
```

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 7]
```diff
@@ -0,0 +1,154 @@
...
+  }
+  map {t₁ t₂} f := {
+    hom := f.hom.left
+    w
+    | star => by aesop_cat
+    | of a => by
+      have := by calc
+        f.hom.left ≫ (t₂.π.app a).left = (f.hom ≫ t₂.π.app a).left := by rfl_cat
+        _ = (t₁.π.app a).left := by simp_all only [ConeMorphism.w, Functor.const_obj_obj]
+      simpa
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:92]:
```suggestion
    | of a => by simp [← Comma.comp_left]
```

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 8]
```diff
@@ -0,0 +1,154 @@
...
+    π.app a := {
+      left := t.π.app (of a)
+      right := 𝟙 _
+      w := by
+        have := by
+          calc
+            t.π.app (of a) ≫ (K.obj a).hom = t.π.app (of a) ≫
+              (liftFromOver.obj K).map (homFrom a) := rfl
+            _ = t.π.app star := by simp only [Functor.const_obj_obj, Cone.w]
+        simpa
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:111]:
```suggestion
      w := by simpa using t.w (homFrom a)
```

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 9]
```diff
@@ -0,0 +1,154 @@
...
+    }
+    π.naturality a b f := by
+      ext
+      let f₂ := incl.map f
+      have eq_after_K: (K.map f₂).left = (K.map f).left := by aesop
+      have nat : t.π.app (of b) =
+        t.π.app (of a) ≫ (K.map f₂).left := by simpa using t.π.naturality f₂
+      simp [nat, eq_after_K]
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:119]:
```suggestion
    π.naturality a b f := by ext; simpa using t.π.naturality (incl.map f)
```

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 10]
```diff
@@ -0,0 +1,154 @@
...
+coneLift.obj (coneBack.obj t) ≅ t where
+  hom.hom := 𝟙 t.pt
+  inv.hom := 𝟙 t.pt
+
+/-- The equivalence made up of `coneBack` and `coneLift`. -/
+def coneEquiv {X : C} (K : J ⥤ Over X) : Cone K ≌ Cone (liftFromOver.obj K) where
+  functor := coneLift
+  inverse := coneBack
+  unitIso := NatIso.ofComponents coneLiftBack
+  counitIso := NatIso.ofComponents coneBackLift
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:147]: Can you either inline `coneLift`, `coneBack`, `coneLiftBack`, `coneBackLift` or clearly mark them as implementation details of `coneEquiv`?

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 11]
```diff
@@ -0,0 +1,154 @@
...
+
+/-- The isomorphism between `coneBack ⋙ coneLift` and the identity, at the level of objects. -/
+@[simps]
+def coneBackLift {X : C} {K : J ⥤ Over X} (t : Cone (liftFromOver.obj K)) :
+coneLift.obj (coneBack.obj t) ≅ t where
+  hom.hom := 𝟙 t.pt
+  inv.hom := 𝟙 t.pt
+
+/-- The equivalence made up of `coneBack` and `coneLift`. -/
+def coneEquiv {X : C} (K : J ⥤ Over X) : Cone K ≌ Cone (liftFromOver.obj K) where
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:143]:
```suggestion
@[simps]
def coneEquiv {X : C} (K : J ⥤ Over X) : Cone K ≌ Cone (liftFromOver.obj K) where
```

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 12]
```diff
@@ -0,0 +1,154 @@
...
+  functor := coneLift
+  inverse := coneBack
+  unitIso := NatIso.ofComponents coneLiftBack
+  counitIso := NatIso.ofComponents coneBackLift
+
+/-- A cone `t` of `K : J ⥤ Over X` is a limit if and only if the corresponding cone
+`coneLift t` of `liftFromOver.obj K : WithTerminal K ⥤ C` is a limit. -/
+def limitEquiv {X : C} {K : J ⥤ Over X} {t : Cone K} :
+  IsLimit (coneLift.obj t) ≃ IsLimit t := IsLimit.ofConeEquiv (coneEquiv K)
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:152]: Do we need this? It's a straightforward application of `IsLimit.ofConeEquiv`

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean (hunk 3 above)
Comment (Moises-Herradon-Cueto) [reply Mathlib/CategoryTheory/WithTerminal/Cones.lean:98]: I am very confused. Initially I had `@[simps]`, and it got the linter to yell at me, namely, it yelled these words at me:
```
/- The `simpNF` linter reports:
SOME SIMP LEMMAS ARE NOT IN SIMP-NORMAL FORM.
see note [simp-normal form] for tips how to debug this.
https://leanprover-community.github.io/mathlib_docs/notes.html#simp-normal%20form -/
-- Mathlib.CategoryTheory.WithTerminal.Cones
././././Mathlib/CategoryTheory/WithTerminal/Cones.lean:125:1: error: @CategoryTheory.Limits.WithTerminal.coneToFromObj Left-hand side simplifies from
  (CategoryTheory.Limits.WithTerminal.coneBack.obj (CategoryTheory.Limits.WithTerminal.coneLift.obj t)).pt
to
  CategoryTheory.Over.mk t.pt.hom
using
  simp only [@CategoryTheory.Limits.WithTerminal.coneBack_obj_pt,
 @CategoryTheory.Limits.WithTerminal.coneLift_obj_pt,
 CategoryTheory.Functor.const_obj_obj,
 @CategoryTheory.Limits.WithTerminal.coneLift_obj_π_app]
Try to change the left-hand side to the simplified term!
```
And yet now it seems happy. What changed?? Also, is this the same as just saying `@[simps]`?

Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cones.lean:98]: My suggestion makes it generate `_obj_pt` but not `_obj` (which is the one the linter was complaining about)

Comment (Moises-Herradon-Cueto) [reply Mathlib/CategoryTheory/WithTerminal/Cones.lean:98]: I have so much to learn 😮

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cones.lean:132]: That means it's taking too much time. You can try inlining the unit and counit

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cones.lean]: Alternatively, if `obj` is the only problematic projection, you can do `@[simps -obj]`

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean [hunk 13]
```diff
@@ -0,0 +1,134 @@
...
+    π.naturality a b f := by
+      ext; simpa using t.π.naturality (incl.map f)
+  }
+  map {t₁ t₂ f} := {
+    hom := Over.homMk f.hom
+  }
+
+-- @[simp]
+-- theorem coneBack_obj_pt {X : C} {K : J ⥤ Over X} (t : Cone (liftFromOver.obj K)) :
+--     (coneBack.obj t).pt  = Over.mk (t.π.app star) := rfl
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/WithTerminal/Cones.lean:106]: You can just fully delete that, right?
```suggestion
```

**Review by YaelDillies — APPROVED** [review]
Does this file really need to be called `.Cones` instead of `.Cone`? Apart from that, LGTM!

maintainer delegate

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cones.lean:132]: I tried and it's indeed fast enough. But also I think it's moot now that you've made everything private

**Review by b-mehta — CHANGES_REQUESTED** [review]

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean [hunk 14]
```diff
@@ -0,0 +1,122 @@
...
+  | of a => 𝟙 _
+  inv.app
+  | star => 𝟙 _
+  | of a => 𝟙 _
+
+/-- A cone of a functor `K : J ⥤ Over X` consists of an object of `Over X`, together
+with morphisms. This same object is a cone of the extended functor
+`liftFromOver.obj K : WithTerminal J ⥤ C`. -/
+@[simps]
+private def coneLift {X : C} {K : J ⥤ Over X} : Cone K ⥤ Cone (liftFromOver.obj K) where
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean:66]: Shouldn't that just mean we should adapt what lemmas `simps` generates?

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean:66]: You could do that too, but something needs to change!

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean:66]: For Moisés, I believe that `@[simps -functor -inverse]` should do

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean:66]: (Tangentially, I searched for other instances of private definitions involving public objects which are tagged @[simps], there's exactly one other, and that probably also should be changed!)

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean:66]: > For Moisés, I believe that `@[simps -functor -inverse]` should do

Actually I don't like this because that means you can't prove anything about the equivalence at all!

**Comment by b-mehta** [comment]
> I could replace `Over` by `Under`, `Limit` by `Colimit`, etc to make dual versions. Should I?

I'd suggest putting that as a TODO in this file for now and then you or someone else can do it later

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean:66]: Okay, it turns out the correct incantation is simply `@[simps!]` instead of `@[simps]`

**Comment by Moises-Herradon-Cueto** [comment]
Just letting you know I didn't disappear. I'm away till Wednesday, I'll try to figure these things out when I'm back!

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean [hunk 15]
```diff
@@ -0,0 +1,127 @@
...
+  functor := coneLift
+  inverse := coneBack
+  unitIso := NatIso.ofComponents (fun t ↦ {
+    hom.hom := 𝟙 t.pt
+    inv.hom := 𝟙 t.pt
+  })
+  counitIso := NatIso.ofComponents (fun t ↦ {
+    hom.hom := 𝟙 t.pt
+    inv.hom := 𝟙 t.pt
+  })
```
Comment (erdOne) [inline Mathlib/CategoryTheory/WithTerminal/Cone.lean:123]:
```suggestion
  unitIso := Iso.refl _
  counitIso := NatIso.ofComponents (fun t ↦ Cones.ext (Iso.refl _))
```

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean [hunk 16]
```diff
@@ -0,0 +1,127 @@
...
+    w
+    | star => by aesop_cat
+    | of a => by simp [← Comma.comp_left]
+  }
+
+/-- This is the inverse of the previous construction: a cone of an extended functor
+`liftFromOver.obj K : WithTerminal J ⥤ C` consists of an object of `C`, together
+with morphisms. This same object is a cone of the original functor `K : J ⥤ Over X`. -/
+@[simps]
+private def coneBack {X : C} {K : J ⥤ Over X} :
```
Comment (erdOne) [inline Mathlib/CategoryTheory/WithTerminal/Cone.lean:91]: This should not be private if it appears in the simp lemma `coneEquiv_inverse`. Same for `coneLift`

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean]: I don't think this issue is addressed yet.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean]: It was addressed by https://github.com/leanprover-community/mathlib4/pull/23942/commits/140321881c9de8e2c57cc936f37b097dd6146b93

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean (hunk 16 above)
Comment (erdOne) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean:91]: Hmmm the `!` didn't show up last time when I looked at the file but it is there now :magic:.
But I'm not sure if `coneEquiv_functor_obj_π_app` is a desired simp lemma.

Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean:91]: I don't know too much about that, but I guess it doesn't hurt? What simp lemmas do we even want here?

Comment (erdOne) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean:91]: I'm not sure `match` should be on the RHS of a simp lemma. Maybe add `coneEquiv_functor_obj_π_app_star` and `coneEquiv_functor_obj_π_app_of` instead?

Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean:91]: I guess you mean that we should write them explicitly. I don't think `simps` can be made to generate them, right?

**Comment by YaelDillies** [comment]
Hey Moisés. I backported your code to Toric, and noticed a few things that became harder due to the earlier reviews on this PR. I therefore redid the suggestions in a way that preserves usability. I also fixed a few style and naming issues, as well as golfed a few proofs (mostly leveraging Lean's `match` abilities and syntax).

File: Mathlib/CategoryTheory/WithTerminal/Cones.lean (hunk 12 above)
Comment (erdOne) [reply Mathlib/CategoryTheory/WithTerminal/Cones.lean]: Do you have any examples? I hardly ever saw such defs.

Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cones.lean]: Sorry, am out of computer, but search for `ofConeEquiv` and you'll find a few

**Review by erdOne — APPROVED** [review]
Otherwise LGTM

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean [hunk 17]
```diff
@@ -0,0 +1,221 @@
...
+  map {t₁ t₂ f} := {
+    hom := Under.homMk f.hom
+  }
+
+/-- Given a functor `K : J ⥤ Under X` and its extension `liftFromUnder K : WithInitial J ⥤ C`,
+there is an obvious equivalence between cocones of these two functors.
+A cocone of `K` is an object of `Under X`, so it has the form `X ⟶ t`.
+Equivalently, a cocone of `WithInitial K` is an object `t : C`,
+and we can recover the structure morphism as `ι.app X : X ⟶ t`. -/
+@[simps!]
```
Comment (erdOne) [inline Mathlib/CategoryTheory/WithTerminal/Cone.lean:201]: Can you unsimp `coconeEquiv_functor_obj_ι_app`? Thanks.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean [hunk 18]
```diff
@@ -0,0 +1,243 @@
...
+  functor_map_hom
+  inverse_obj_pt_left
+  inverse_obj_pt_right_as
+  inverse_obj_pt_hom
+  inverse_obj_π_app_left
+  inverse_map_hom_left
+  unitIso_hom_app_hom_left
+  unitIso_inv_app_hom_left
+  counitIso_hom_app_hom
+  counitIso_inv_app_hom]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/WithTerminal/Cone.lean:113]: Could you reduce the number of lines used here? (same for `coconeEquiv` below)
```suggestion
@[simps! functor_obj_pt functor_map_hom inverse_obj_pt_left inverse_obj_pt_right_as
  inverse_obj_pt_hom inverse_obj_π_app_left inverse_map_hom_left unitIso_hom_app_hom_left
  unitIso_inv_app_hom_left counitIso_hom_app_hom counitIso_inv_app_hom]
```

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean [hunk 19]
```diff
@@ -0,0 +1,225 @@
...
+  by aesop
+
+@[simp]
+theorem coneEquiv_functor_obj_π_app_of (Y : J): (coneEquiv.functor.obj t).π.app (of Y) =
+    (t.π.app Y).left := by aesop
+
+/-- A cone `t` of `K : J ⥤ Over X` is a limit if and only if the corresponding cone
+`coneLift t` of `liftFromOver.obj K : WithTerminal K ⥤ C` is a limit. -/
+@[simps!]
+def limitEquiv : IsLimit (coneLift.obj t) ≃ IsLimit t := IsLimit.ofConeEquiv coneEquiv
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/WithTerminal/Cone.lean:122]: This is a public definition which uses a private definition in its type, which isn't generally a good idea.

Comment (b-mehta) [inline Mathlib/CategoryTheory/WithTerminal/Cone.lean:122]:
```suggestion
def isLimitEquiv : IsLimit (coneLift.obj t) ≃ IsLimit t := IsLimit.ofConeEquiv coneEquiv
```
Or something similar, since `limit` isn't part of this definition.

**Review by b-mehta — CHANGES_REQUESTED** [review]

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/WithTerminal/Cone.lean]: Renamed. Btw do you think this definition is worth having?

**Comment by kim-em** [comment]
Isn't https://github.com/leanprover-community/mathlib4/pull/23942#discussion_r2058984165 still outstanding?

**Comment by kim-em** [comment]
> > I could replace `Over` by `Under`, `Limit` by `Colimit`, etc to make dual versions. Should I?
> 
> I'd suggest putting that as a TODO in this file for now, and then you or someone else can do it later

This also seems to still need doing.

**Comment by Moises-Herradon-Cueto** [comment]
> Isn't [#23942 (comment)](https://github.com/leanprover-community/mathlib4/pull/23942#discussion_r2058984165) still outstanding?

I made [this change](https://github.com/leanprover-community/mathlib4/blob/ffb8377f9ecb88dff8a71f5a7b67f90c5c2bc879/Mathlib/CategoryTheory/WithTerminal/Cone.lean#L111-L116), but I don't know if it solves the issue. I'm hoping for input on someone who knows what they're doing.

**Comment by Moises-Herradon-Cueto** [comment]
> > > I could replace `Over` by `Under`, `Limit` by `Colimit`, etc to make dual versions. Should I?
> > 
> > 
> > I'd suggest putting that as a TODO in this file for now, and then you or someone else can do it later
> 
> This also seems to still need doing.

That was done by Yaël already.

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean [hunk 20]
```diff
@@ -0,0 +1,224 @@
...
+    left := 𝟙 X
+    right := whiskerRight f (Under.forget X)
+  }
+
+/-- For any functor `K : J ⥤ Under X`, there is a canonical extension
+`WithInitial J ⥤ C`, that sends `star` to `X`. -/
+@[simps!]
+def liftFromUnder : (J ⥤ Under X) ⥤ WithInitial J ⥤ C := commaFromUnder ⋙ equivComma.inverse
+
+/-- The extension of a functor to over categories behaves well with compositions. -/
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/WithTerminal/Cone.lean:151]:
```suggestion
/-- The extension of a functor to under categories behaves well with compositions. -/
```

File: Mathlib/CategoryTheory/WithTerminal/Cone.lean [hunk 21]
```diff
@@ -0,0 +1,224 @@
...
+
+namespace WithInitial
+variable {X : C} {K : J ⥤ Under X} {F : C ⥤ D} {t : Cocone K}
+
+/-- The category of functors `J ⥤ Under X` can be seen as part of a comma category,
+namely the comma category constructed from the identity of the category of functors
+`J ⥤ C` and the functor that maps `X : C` to the constant functor `J ⥤ C`.
+
+Given a functor `K : J ⥤ Under X`, it is mapped to a natural transformation from the
+obvious functor `J ⥤ C` to the constant functor `X`. -/
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/WithTerminal/Cone.lean:133]:
```suggestion
Given a functor `K : J ⥤ Under X`, it is mapped to a natural transformation to the
obvious functor `J ⥤ C` from the constant functor `X`. -/
```

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
